US05294734
0.415 g (1.55 mmol) of 2-amino-6-hydroxy-4-phosphonomethyl-hex-3-enoic acid ethyl ester is heated under reflux in 3 ml of water for 24 hours. The reaction mixture is concentrated by evaporation, purified by chromatography on 10 g of silica gel with ethanol/water (1:1) as eluant, and crystallised from ethanol. 2-amino-6-hydroxy-4-phosphonomethyl-hex-3-enoic acid having a melting point >300° is obtained.

reactant | 2-amino-6-hydroxy-4-phosphonomethyl-hex-3-enoic acid ethyl ester | 1.55 mmol, 0.415 g | C(C)OC(C(C=C(CCO)CP(=O)(O)O)N)=O | C9H18NO6P
solvent | water | 3 ml | O | H2O
product | 2-amino-6-hydroxy-4-phosphonomethyl-hex-3-enoic acid | NC(C(=O)O)C=C(CCO)CP(=O)(O)O | C7H14NO6P
